US04230707
Q. 3,10-Dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxamide
A mixture of 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxylic acid (3.0g., 0.012 mol) and 1,1'-carbonyldiimidazole (2.0 g., 0.012 mol) in tetrahydrofuran (180 ml) and dimethylformamide (3.5 ml) is refluxed under nitrogen for 5 hours. The solution is cooled in an ice-bath and anhydrous ammonia is bubbled through for 15 minutes. The mixture is stirred at ice-bath temperature for 2 hours and at room temperature for one hour. The reaction mixture is cooled and the precipitate is filtered off and washed with tetrahydrofuran. The precipitate is treated with hot 0.5 mol aqueous sodium bicarbonate solution, filtered, washed with water, washed with acetone and sucked dry to give the product (2.0 g.), mp 334° C. (dec).

reactant | 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxylic acid | 0.012 mol, 3.0g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)O)CCS2 | C11H8N2O3S
reactant | 1,1'-carbonyldiimidazole | 0.012 mol, 2.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | sodium bicarbonate | 0.5 mol | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 3.5 ml | CN(C=O)C | C3H7NO
product | 3,10-Dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxamide | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)N)CCS2 | C11H9N3O2S
